US08217066B2
Step 4: 1-(4′-{4-[(5)-1-Hydroxy-2-((R)-1-phenyl-ethoxy)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 3, Step 5, using dichlorobis(triphenylphosphine)palladium(II) as the catalyst and using (S)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-((R)-1-phenyl-ethoxy)-ethanol and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | (S)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-((R)-1-phenyl-ethoxy)-ethanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)[C@@H](CO[C@H](C)C1=CC=CC=C1)O | C20H20BrNO3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
catalyst | dichlorobis(triphenylphosphine)palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4′-{4-[(5)-1-Hydroxy-2-((R)-1-phenyl-ethoxy)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)[C@@H](CO[C@H](C)C1=CC=CC=C1)O | C32H33NO5
